US06620811B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(2-morpholin-4-yl-ethylamino)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and 4-(2-aminoethyl)-morpholine. ES-MS m/e (%): 499 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(2-aminoethyl)-morpholine | NCCN1CCOCC1 | C6H14N2O
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(2-morpholin-4-yl-ethylamino)-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)NCCN2CCOCC2)=O)N2CCOCC2 | C24H30N6O4S
